US09029357B2
To a mixture of trifluoromethanesulfonic acid 3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl ester (110 mg) and ferric acetylacetonate (4 mg) in a mixture of tetrahydrofurane (4.5 mL) and N-methylpyrrolidone (0.25 mL) cooled at 0° C. is added a 2M solution of butylmagnesium chloride in tetrahydrofurane (150 μL). The mixture is stirred at room temperature for 25 min, then warmed at 30° C. for 15 min. A second addition of butylmagnesium chloride in tetrahydrofurane (150 μL) is performed. The mixture is then diluted with diethyl ether and quenched with 0.5N hydrochloric solution. The aqueous phase is extracted with diethyl ether, then ethyl acetate. Organic phases are pooled, dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography (gradient heptane/ethyl acetate from 99/1 to 90/10). The product is then refluxed in methanol and concentrated to give 2-[(3-butylphenyl)(1-methylpiperidin-4-yloxy)methyl]benzothiazole.

reactant | trifluoromethanesulfonic acid 3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenyl ester | 110 mg | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F)OC2CCN(CC2)C | C21H21F3N2O4S2
reactant | butylmagnesium chloride | C(CCC)[Mg]Cl
solvent | tetrahydrofurane | 4.5 mL | O1CCCC1 | C4H8O
solvent | N-methylpyrrolidone | 0.25 mL | CN1C(CCC1)=O | C5H9NO
solvent | tetrahydrofurane | 150 μL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 150 μL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[(3-butylphenyl)(1-methylpiperidin-4-yloxy)methyl]benzothiazole | C(CCC)C=1C=C(C=CC1)C(C=1SC2=C(N1)C=CC=C2)OC2CCN(CC2)C | C24H30N2OS
